US07199147B2
To tert-butyl 4-[(1H-indazol-5-yloxy)methyl]piperidine-1-carboxylate (81.2 mg, 0.245 mmol) was added 4N-hydrochloric acid-dioxane (1 ml). After 1 hour, the resulting mixture was concentrated under reduced pressure, and the resulting residue was dissolved in methanol (0.5 ml) and crystallized from diethyl ether (10 ml). The crystals were filtered and then dried under reduced pressure to obtain 5-(piperidin-4-ylmethoxy)-1H-indazole dihydrochloride (71 mg, 95%).

reactant | tert-butyl 4-[(1H-indazol-5-yloxy)methyl]piperidine-1-carboxylate | 0.245 mmol, 81.2 mg | N1N=CC2=CC(=CC=C12)OCC1CCN(CC1)C(=O)OC(C)(C)C | C18H25N3O3
reactant | hydrochloric acid dioxane | 1 ml | Cl.O1CCOCC1
product | 5-(piperidin-4-ylmethoxy)-1H-indazole dihydrochloride | 71 mg, 95% | Cl.Cl.N1CCC(CC1)COC=1C=C2C=NNC2=CC1 | InChI=1S/C13H17N3O.2ClH/c1-2-13-11(8-15-16-13)7-12(1)17-9-10-3-5-14-6-4-10;;/h1-2,7-8,10,14H,3-6,9H2,(H,15,16);2*1H
